US04810719
N-(4-Methoxyphenyl)-1-phenyl-1H-pyrazol-3-amine
A solution of 5-chloro-N-(4-methoxyphenyl)-1-phenyl -1H-pyrazol-3-amine (0.2 g) in ethanol (10 ml) and triethylamine (0.2 g) was reduced at atmospheric pressure of hydrogen over 10% palladium/charcoal (0.2 g), with stirring, over 3 hours. The solution was filtered and evaporated to leave the title compound as a colourless solid, mp 96°-98°, the NMR and mass spectra of which were identical to those for the title compound of Example 2.

reactant | 5-chloro-N-(4-methoxyphenyl)-1-phenyl -1H-pyrazol-3-amine | 0.2 g | ClC1=CC(=NN1C1=CC=CC=C1)NC1=CC=C(C=C1)OC | C16H14ClN3O
reactant | triethylamine | 0.2 g | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium/charcoal | 0.2 g | [Pd] | Pd
product | N-(4-Methoxyphenyl)-1-phenyl-1H-pyrazol-3-amine | COC1=CC=C(C=C1)NC1=NN(C=C1)C1=CC=CC=C1 | C16H15N3O
